US08735406B2
Process of N-ethyl-N,9-dimethyl-8-oxo-2-phenyl-8,9-dihydro-7H-purine-7-carboxamide
To a solution of N-ethylmethylamine (78 mg) and triphosgene (209 mg) in dichloromethane (10 ml) was added dropwise triethylamine (365 μl) at room temperature and the mixture was stirred for 10 minutes. To the reaction mixture was added a solution of 9-methyl-2-phenyl-7,9-dihydro-8H-purine-8-one <the compound of Reference Example 21> (200 mg) and 1,4-diazabicyclo[2.2.2]octane (220 mg) in dichloromethane (10 ml) and the mixture was stirred for 1 hour. The reaction mixture was washed with water and the organic layer was, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=100/0˜0/100) to give the title compound 156 mg.

reactant | N-ethylmethylamine | 78 mg | C(C)NC | C3H9N
reactant | triphosgene | 209 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 9-methyl-2-phenyl-7,9-dihydro-8H-purine-8-one | CN1C2=NC(=NC=C2NC1=O)C1=CC=CC=C1 | C12H10N4O
reactant | 1,4-diazabicyclo[2.2.2]octane | 220 mg | N12CCN(CC1)CC2 | C6H12N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | triethylamine | 365 μl | C(C)N(CC)CC | C6H15N
product | N-ethyl-N,9-dimethyl-8-oxo-2-phenyl-8,9-dihydro-7H-purine-7-carboxamide | 156 mg | C(C)N(C(=O)N1C(N(C2=NC(=NC=C12)C1=CC=CC=C1)C)=O)C | C16H17N5O2
